US06355642B1
1-t-Butoxycarbonyl-4-methoxy-4-phenylpiperidine
1-t-Butoxycarbonyl-4-hydroxy-4-phenylpiperidine (300 mg, 1.1 mmol) was dissolved in tetrahydrofuran (9 ml). Thereto was added sodium hydride (43 mg, 1.1 mmol), and the resulting solution was stirred at a room temperature for 1 hour. The reaction solution was mixed with methyl iodide (0.1 ml, 1.6 mmol) and again stirred for 17 hours. The solvent was evaporated under a reduced pressure, and the thus obtained residue was mixed with ethyl acetate and water. The reaction product was extracted with ethyl acetate, washed with water and saturated brine and dried with anhydrous sodium sulfate. Then the compound obtained by the evaporation of the solvent under a reduced pressure was separated and purified by a silica gel column chromatography to obtain 240 mg of the title compound (0.82 mmol, 76% in yield).

reactant | 1-t-Butoxycarbonyl-4-hydroxy-4-phenylpiperidine | 1.1 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)O | C16H23NO3
reactant | sodium hydride | 1.1 mmol, 43 mg | [H-].[Na+]
reactant | methyl iodide | 1.6 mmol, 0.1 ml | CI | CH3I
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 1-t-Butoxycarbonyl-4-methoxy-4-phenylpiperidine | 0.82 mmol, 240 mg, 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)OC | C17H25NO3
